US09359300B2
Step F: Preparation of 3-chloro-4-hydroxy-2′-(2-(2-hydroxypropan-2-yl)pyrimidin-4-yl)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one
To a solution of 3-chloro-2′-(2-(2-hydroxypropan-2-yl)pyrimidin-4-yl)-4-((4-methoxybenzyl)oxy)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one (2.53 g, 5.00 mmol) in dichloromethane (20 mL) was added trifluoroacetic acid (1.0 mL). The solution was stirred for several hours at room temperature. The solution was concentrated, diluted with water and extracted several times with ethyl acetate. The combined organic layers were dried (MgSO4), filtered and concentrated to provide 1.7 g of the title compound: MS (M+H) 388.

reactant | 3-chloro-2′-(2-(2-hydroxypropan-2-yl)pyrimidin-4-yl)-4-((4-methoxybenzyl)oxy)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one | 5.00 mmol, 2.53 g | ClC=1C(N(C(=CC1OCC1=CC=C(C=C1)OC)C)C1=CC(=NC=C1C)C1=NC(=NC=C1)C(C)(C)O)=O | C27H27ClN4O4
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-chloro-4-hydroxy-2′-(2-(2-hydroxypropan-2-yl)pyrimidin-4-yl)-5′,6-dimethyl-2H-[1,4′-bipyridin]-2-one | 1.7 g | ClC=1C(N(C(=CC1O)C)C1=CC(=NC=C1C)C1=NC(=NC=C1)C(C)(C)O)=O | C19H19ClN4O3
